US07645789B2
(R)-1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1-(2,3-dihydroxypropyl)-6-fluoro-1H-indol-5-yl)cyclopropanecarboxamide was prepared using an experimental procedure similar to example 72 from 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid and 2-tert-butyl-6-fluoro-5-nitro-1H-indole.

reactant | 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)O | C11H10O4
reactant | 2-tert-butyl-6-fluoro-5-nitro-1H-indole | C(C)(C)(C)C=1NC2=CC(=C(C=C2C1)[N+](=O)[O-])F | C12H13FN2O2
product | (R)-1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1-(2,3-dihydroxypropyl)-6-fluoro-1H-indol-5-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(N(C1=CC2F)C[C@H](CO)O)C(C)(C)C | C26H29FN2O5
